US05994270
Ethyl cyanoacetate (111.0 g, 982 mmol) was added to a suspension of potassium hydroxide pellets (52.0 g, 789 mmol) and potassium cyanide (16.0 g, 246 mmol) in dry DMF (500 mL). This was stirred at ambient temperature for 30 minutes, then 85% 2-nitro naphthalene (40.0 g, 197 mmol) was added to the reaction mixture. After stirring at room temperature for 22 hours, the reaction was refluxed for 10 minutes, then 10% NaOH (300 mL) was added and refluxing was continued for an additional 2 hours. The resulting mixture was cooled and poured onto crushed ice and extracted with chloroform. The organic phase was washed with water followed with brine, then was dried (MgSo4), decolorized with activated carbon, and filtered through silica gel. The filtrate was concentrated and triturated first with ether and then with 1:1 ethyl acetate/hexane to give 23.0 g of 2-amino 1-naphthonitrile as a yellow solid. tert-Butyl nitrite (23.5 g, 205 mmol) was added dropwise to an ice-water cooled mixture of cupric chloride (20.3 g, 151 mmol) in a solution 2-amino-1-naphthonitrile (23.0 g, 137 mmol) in dry acetonitrile (250 mL). Gas evolution was controlled by the rate of addition of the tert-butyl nitrite. The resulting reaction mixture was stirred at 0° C. for 30 minutes, then at room temperature for 30 minutes. This was poured into cold, dilute aqueous HCl and the precipitate which formed was filtered, vacuum dried, and kugelrohr distilled (180° C., 3.5 torr) to give 15.5 g of white, crystalline 2-chloro-1-naphthonitrile, a 60% yield.

reactant | Ethyl cyanoacetate | 982 mmol, 111.0 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium cyanide | 246 mmol, 16.0 g | [C-]#N.[K+]
reactant | 2-nitro naphthalene | 197 mmol, 40.0 g | [N+](=O)([O-])C1=CC2=CC=CC=C2C=C1 | C10H7NO2
reactant | NaOH | 300 mL | [OH-].[Na+]
solvent | DMF | 500 mL | CN(C)C=O | C3H7NO
product | 2-amino 1-naphthonitrile | 23.0 g | NC1=C(C2=CC=CC=C2C=C1)C#N | C11H8N2
